US05017713
A mixture of 4-bromo-1-p-toluenesulfonylaminoanthraquinone (purity 98%, 46.5 g), monochlorobenzene (550 g), tetra-n-butyl ammonium bromide (0.3 g) and 96% potassium hydroxide (12.0 g) was stirred for 1 hour at 30° C. and methyl iodide (28.4 g) was added thereto at 30° C. over 2 hours. A mixture was stirred at 30° C. for 30 minutes and 40° C. for 3 hours, successively. Then, the same aftertreatment as in Example 3 was effected to obtain 4-bromo-N-p-toluenesulfonyl-1-methylaminoanthraquinone (46.9 g, purity 92.5%, yield 92.3%).

reactant | 4-bromo-1-p-toluenesulfonylaminoanthraquinone | 46.5 g | BrC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NS(=O)(=O)C1=CC=C(C=C1)C | C21H14BrNO4S
reactant | potassium hydroxide | 12.0 g | [OH-].[K+]
reactant | methyl iodide | 28.4 g | CI | CH3I
catalyst | tetra-n-butyl ammonium bromide | 0.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | monochlorobenzene | 550 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-bromo-N-p-toluenesulfonyl-1-methylaminoanthraquinone | 46.9 g, yield 92.3% | BrC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N(S(=O)(=O)C1=CC=C(C=C1)C)C | C22H16BrNO4S
